US06759417B2
4-Amino-5-(1H-benzimidazol-2-yl)thieno[2,3-b]pyridin-6(7H)-one
LiHMDS (4.3 eq) was added to ethyl 1H-benzimidazol-2-ylacetate (1.1 eq) and 2-aminothiophene-3-carbonitrile (1.0 eq) in THF at 0° C. After 1 hour, the resulting mixture was warmed to room temperature and then stirred overnight. The mixture was quenched with an aqueous saturated NH4Cl solution and extracted with EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4, filtered, and concentrated in vacuo to yield a brown solid. LC/MS m/z 283.1 (MH+), Rt 1.88 minutes.

reactant | LiHMDS | 4.3 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 1H-benzimidazol-2-ylacetate | 1.1 eq | N1C(=NC2=C1C=CC=C2)CC(=O)OCC | C11H12N2O2
reactant | 2-aminothiophene-3-carbonitrile | 1.0 eq | NC=1SC=CC1C#N | C5H4N2S
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-5-(1H-benzimidazol-2-yl)thieno[2,3-b]pyridin-6(7H)-one | NC=1C2=C(NC(C1C1=NC3=C(N1)C=CC=C3)=O)SC=C2 | C14H10N4OS
